US03980788
A mixture of 3.0 g. of 4-[2-(ethylamino)ethyl]-pyridine and 2.0 g. of triethylamine in 60 ml. of dry chloroform is treated at 0°C. with a solution of 2.1 g. of carboethoxy chloride in 10 ml. of dry chloroform. After stirring for two hours, the mixture is poured into ice water and 5 percent aqueous sodium hydroxide added. The chloroform layer is separated, washed with water and dried over potassium carbonate. The solvent is evaporated and the residue distilled in vacuo to give 4-[2-(N-carboethoxy-N-ethylamino)ethyl]pyridine.

reactant | 4-[2-(ethylamino)ethyl]-pyridine | C(C)NCCC1=CC=NC=C1 | C9H14N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | carboethoxy chloride | C(=O)(OCC)Cl | C3H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-(N-carboethoxy-N-ethylamino)ethyl]pyridine | C(=O)(OCC)N(CC)CCC1=CC=NC=C1 | C12H18N2O2
